US06225311B1
Ethyl{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}(formylamino)-acetate (2.8 g, 7.3 mmol) was dissolved in 50 ml of ethanol and 5N hydrochloric acid (4 ml) and refluxed for 2 h. The reaction mixture was then concentrated to dryness to provide ethyl amino{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}acetate as a brown oil which was used for the next step with out purification. Yield: 3.0 g (quantitative); Electrospray Mass Spec: 353 (M+H)+.

reactant | Ethyl{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}(formylamino)-acetate | 7.3 mmol, 2.8 g | C(C)OC(C(NC=O)C1(CCN(CC1)CC1=CC=CC=C1)SCCO)=O | C19H28N2O4S
reactant | hydrochloric acid | 5N, 4 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl amino{1-benzyl-4-[(2-hydroxyethyl)sulfanyl]-4-piperidinyl}acetate | NC(C(=O)OCC)C1(CCN(CC1)CC1=CC=CC=C1)SCCO | C18H28N2O3S
